US04863480
First Step: Preparation of 1-(2-hydroxy-4-nitrophenoxy)propane-2,3-diol
0.3 mol (19.8 g) of 85% by weight potassium hydroxide pellets is dissolved in 210 ml of glycerol, and 0.25 mol (41.75 g) of 3,4-methylenedioxynitrobenzene is then added, with stirring. After heating for one and a half hours in the region of 110° C., the reaction medium is poured into 1.5 liters of iced water. The mixture is filtered in order to remove a small quantity of starting material. The filtrate is acidified to pH=4 with hydrochloric acid and then treated with 10 g of vegetable charcoal. After stirring for a few minutes at ambient temperature and removal of the vegetable charcoal by filtration, the solution is left to stand overnight at 0° C. and the expected product which has crystallized is then filtered off. After recrystallization from ethanol and drying in vacuo, the product melts at 148° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 3,4-methylenedioxynitrobenzene | 0.25 mol, 41.75 g | C1OC=2C=C(C=CC2O1)[N+](=O)[O-] | C7H5NO4
reactant | water | 1.5 liters | O | H2O
reactant | glycerol | 210 ml | OCC(O)CO | C3H8O3
product | 1-(2-hydroxy-4-nitrophenoxy)propane-2,3-diol | OC1=C(OCC(CO)O)C=CC(=C1)[N+](=O)[O-] | C9H11NO6
